US05089654
To a suspension of 310 mg of 60% oily sodium hydride in 10 ml of dry DMF was added dropwise a solution of 2.8 g of 2-n-heptyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone in 10 ml of DMF with ice cooling. Then, 1.2 g of ethyl bromoacetate was added, and the mixture was stirred at room temperature for an hour. After neutralization with dilute hydrochloric acid, the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried, and the solvent was evaporated under reduced pressure. The residue was chromatographed on silica gel column with n-hexane containing 1% ethyl acetate to give 1.83 g of 2'-ethoxycarbonylmethoxy-2-n-heptyl-4'-(3-methyl-2-butenyloxy)-chalcone. To a solution of this compound in 30 ml of ethanol was added 15 ml of 10% aqueous potassium carbonate solution, and the mixture was stirred at 60° C. for 4.5 hours. After neutralization with dilute hydrochloric acid with ice cooling, the precipitated solid was collected by filtration and recrystallized from ethanol to give 1.23 g of 2'-carboxymethoxy-2-n-heptyl-4'-(3-methyl-2-butenyloxy)chalcone as pale yellow plates.

reactant | sodium hydride | 310 mg | [H-].[Na+]
reactant | 2-n-heptyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone | 2.8 g | C(CCCCCC)C1=C(C=CC=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)O | C27H34O3
reactant | ethyl bromoacetate | 1.2 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2'-ethoxycarbonylmethoxy-2-n-heptyl-4'-(3-methyl-2-butenyloxy)-chalcone | 1.83 g | C(C)OC(=O)COC1=C(C(C=CC2=C(C=CC=C2)CCCCCCC)=O)C=CC(=C1)OCC=C(C)C | C31H40O5
